US05310895
After 50 g of β-cyclodextrin was added to 1 liter of water, the mixture was heated to completely dissolve. The solution was cooled to room temperature and 10 g of 3'-deoxy-3'-bromo-2',5'-O-diacetyladenosine was then added to the solution, and 2.5 g of sodium hydrogencarbonate was added to the mixture over 1 hour. After stirring was continued for further 2 hours, the reaction mixture was extracted 3 times with 500 ml of ethyl acetate. The solvent was distilled off to give 7 g (yield, 78%) of 5'-O-acetyl-3'-deoxy-3'-bromoadenosine

reactant | β-cyclodextrin | 50 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | 3'-deoxy-3'-bromo-2',5'-O-diacetyladenosine | 10 g | Br[C@H]1[C@]([C@@H](O[C@@H]1COC(C)=O)N1C=NC=2C(N)=NC=NC12)(O)C(C)=O | C14H16BrN5O5
reactant | sodium hydrogencarbonate | 2.5 g | C(O)([O-])=O.[Na+]
solvent | water | 1 liter | O | H2O
product | 5'-O-acetyl-3'-deoxy-3'-bromoadenosine | 7 g, 78% | C(C)(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)Br | C12H14BrN5O4
